US06518279B2
9-(3-bromo-4-fluorophenyl)-5,6,7,9-tetrahydro-1H-cyclopenta[b]quinoline-1,8(4H)-dione
A solution of 4-cyclopentene-1,3-dione (1.14 g, 10.2 mmol), 3-bromo-4-fluorobenzaldehyde (2.05 g, 10.1 mmol), and 3-amino-2-cyclohexenone (1.14 g, 10.2 mmol) in absolute ethanol (50 mL) were magnetically stirred and heated at reflux for 36 hours. The mixture was vacuum filtered and the solid was washed with ethyl acetate-hexane. The filtrate was concentrated and the residue was chromatographed on silica gel (100 g) using EtOAc-hexane (75:25), then EtOAc, finally EtOAc—EtOH (95:5). The product was obtained as a tan crystalline solid, (720 mg, 1.92 mmol).

reactant | 4-cyclopentene-1,3-dione | 10.2 mmol, 1.14 g | C1(CC(C=C1)=O)=O | C5H4O2
reactant | 3-bromo-4-fluorobenzaldehyde | 10.1 mmol, 2.05 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | 3-amino-2-cyclohexenone | 10.2 mmol, 1.14 g | NC1=CC(CCC1)=O | C6H9NO
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 9-(3-bromo-4-fluorophenyl)-5,6,7,9-tetrahydro-1H-cyclopenta[b]quinoline-1,8(4H)-dione | BrC=1C=C(C=CC1F)C1C2=C(NC=3CCCC(C13)=O)C=CC2=O | C18H13BrFNO2
